US09056844B2
Bis({[(1-methylethoxy)carbonyl]oxy}methyl) (1S,2R,3S,4S,5R,6R)-2-amino-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate hydrochloride
Add bis({[(1-methylethoxy)carbonyl]oxy}methyl) (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate in a 4.0M solution of hydrogen chloride in dioxane (14.47 mL, 57.87 mmol) and stir for 45 minutes. Add ethyl acetate, and concentrate the reaction mixture to a foam. Triturate the foam with ethyl acetate to produce a solid. Concentrate and dry under vacuum at 40° C. overnight to provide the title compound as an off-white solid (1.77 g, 2.75 mmol, 95%): MS (m/z): 608 (M+H).

reactant | bis({[(1-methylethoxy)carbonyl]oxy}methyl) (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)O)C(=O)OCOC(=O)OC(C)C)C(=O)OCOC(=O)OC(C)C | C30H39Cl2NO14
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 57.87 mmol, 14.47 mL | O1CCOCC1 | C4H8O2
product | Bis({[(1-methylethoxy)carbonyl]oxy}methyl) (1S,2R,3S,4S,5R,6R)-2-amino-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate hydrochloride | 2.75 mmol, 1.77 g, 95% | Cl.N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)O)C(=O)OCOC(=O)OC(C)C)C(=O)OCOC(=O)OC(C)C | InChI=1S/C25H31Cl2NO12.ClH/c1-11(2)39-23(32)37-9-35-21(30)17-16-18(17)25(28,22(31)36-10-38-24(33)40-12(3)4)20(19(16)29)34-8-13-5-6-14(26)15(27)7-13;/h5-7,11-12,16-20,29H,8-10,28H2,1-4H3;1H/t16-,17-,18-,19-,20+,25+;/m0./s1
